US07485634B2
1-Methyl-1-phenyl-1,3,4,9-tetrahydrobeta-carboline was prepared by the addition of tryptamine-HCl (500 mg, 2.54 mmol), 1-butanol (12 mL), and acetophenone (1.5 mL, 13 mmol) to a 25 mL flask attached with Dean-Stark Trap. Azeotropic removal of a butanol/H2O mixture was conducted during a vigorous reflux period of 4 hours. The concentrated solution was allowed to stir near reflux for an additional 14 hours. The solution was concentrated under reduced pressure. The residue was taken up into EtOAc (70 mL), washed with sat. NaHCO3 (40 mL×3), washed with H2O (40 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude material was chromatographed (SiO2 100% DCM to 5% MeOH) to provide 376 mg of 1-methyl-1-phenyl-1,3,4,9-tetrahydrobeta-carboline; 1H NMR (CDCl3) δ 7.74 (1H, br s), 7.54 (1H, d), 7.23-7.32 (6H, m), 7.09-7.21 (2H, m), 3.13 (1H, m), 2.71-2.94 (3H, m), 1.84 (3H, s); 13C NMR (CDCl3) δ 146, 138, 136, 128, 127, 127, 126, 122, 119, 118, 110, 110, 57, 40, 28, 23; TLC (SiO2, 10:1 DCM/MeOH) Rf=0.3; MS (ESI): 263 (MH+).

reactant | tryptamine-HCl | 2.54 mmol, 500 mg | Cl.NCCC1=CNC2=CC=CC=C12
reactant | acetophenone | 13 mmol, 1.5 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | 1-butanol | 12 mL | C(CCC)O | C4H10O
product | 1-methyl-1-phenyl-1,3,4,9-tetrahydrobeta-carboline | 376 mg | CC1(NCCC=2C3=CC=CC=C3NC12)C1=CC=CC=C1 | C18H18N2
